US08859574B2
A suspension of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (20 mg, 0.05 mmol), 3-chloro-6-methylpyridazine (13 mg, 0.1 mmol) and Cs2CO3 (33 mg, 0.1 mmol) in dioxane (1 mL) was stirred at 150° C. in a sealed vial. After 15 h, additional 3-chloro-6-methylpyridazine (26 mg) and Cs2CO3 (66 mg) were added. The reaction was continued for an additional 3 h. The crude reaction mixture was purified by RP-HPLC to give 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(6-methylpyridazin-3-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid;

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.05 mmol, 20 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 3-chloro-6-methylpyridazine | 0.1 mmol, 13 mg | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | Cs2CO3 | 0.1 mmol, 33 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-6-methylpyridazine | 26 mg | ClC=1N=NC(=CC1)C | C5H5ClN2
reactant | Cs2CO3 | 66 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(6-methylpyridazin-3-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C=1N=NC(=CC1)C)F)NC1=NNC(=C1)C | C25H27ClFN9
